US06451740B2
To 0.93 g of methyl [2-{2-chloro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-4-fluorophenoxy}phenoxy]acetate, were added 10 ml of N,N-dimethylformamide and 0.31 g of potassium carbonate, then, 0.58 g of methyl iodide was added to the reaction solution, and the mixture was stirred at room temperature for 2 hours. 50 ml of diluted hydrochloric acid was added to the reaction solution and extracted with ethyl acetate. The organic layer was washed with water and then saturated saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.82 g of methyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate [Compound 3-11 of the present invention].

reactant | methyl [2-{2-chloro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-4-fluorophenoxy}phenoxy]acetate | 0.93 g | ClC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O | C20H13ClF4N2O6
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.58 g | CI | CH3I
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 0.82 g | ClC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H15ClF4N2O6
